US09428509B2
5-Amino-6-methoxy-N-methylpicolinamide
The solution of 6-methoxy-N-methyl-5-nitropicolinamide (1 equiv) in MeOH (0.43 M) was stirred with palladium on carbon 10% w/w (10% by mass) under hydrogen (45 psi) for 1 h. The reaction mixture was filtered over Celite and concentrated. The crude product was purified by silica gel column chromatography (20-90% ethyl acetate (with 1% 1N ammonia in MeOH) in hexane). Concentration of the desired fractions under reduced pressure afforded the title compound (97%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.73 (d, J=4.69 Hz, 3H) 3.91 (s, 3H) 5.49 (br. s., 2H) 6.83 (d, J=7.81 Hz, 1H) 7.35 (d, J=7.81 Hz, 1H) 8.05 (q, J=4.82 Hz, 1H); MS (ESI) m/z 182.3 [M+1]+.

reactant | 6-methoxy-N-methyl-5-nitropicolinamide | 1 equiv | COC1=C(C=CC(=N1)C(=O)NC)[N+](=O)[O-] | C8H9N3O4
solvent | MeOH | 0.43 M | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 5-Amino-6-methoxy-N-methylpicolinamide | 97% | NC=1C=CC(=NC1OC)C(=O)NC | C8H11N3O2
